US06800788B2
Hexafluoropropene (13 g, 0.086 mol) was added over 30 minutes to a stirred mixture of CH2═CH(CO)NHC(CH3)2CH2OH (5.0 g, 0.035 mol), acetonitrile (190 mL) and Cs2CO3 (1.0 g, 0.003 mol) at 15-20° C. The resultant light yellow solution was stirred for an additional 1 h, after which TLC analysis (eluting with CH2Cl2 and CH3OH; 17:1 v/v) indicated the reaction was complete. The solution was filtered, and the filtrate concentrated under reduced pressure to give CH2═CHC(O)NHC(CH3)2CH2OCF2CFHCF3 as a light brown liquid (7.5 g ). 19F NMR (CDCl3): δ−75.8 (m, 3F), −79.9 (dm, 1F), −82.8 (dm, 1F), and −212.3 (dm, 1F) ppm; 1H NMR (CDCl3): δ 6.2 (dd, 1H), 6.1 (dd, 1H), 5.6 (dd, 1H), 5.6 (brs, 1H, overlaps), 4.8 (dm, 2H, JHF=44 Hz), 4.2 (dm, 2H), 1.4 (s, 6H) ppm.

reactant | Hexafluoropropene | 0.086 mol, 13 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | CH2═CH(CO)NHC(CH3)2CH2OH | 0.035 mol, 5.0 g | C=CC(=O)NC(C)(C)CO | C7H13NO2
reactant | Cs2CO3 | 0.003 mol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 190 mL | C(C)#N | C2H3N
product | CH2═CHC(O)NHC(CH3)2CH2OCF2CFHCF3 | 7.5 g | C=CC(=O)NC(C)(C)COC(F)(F)C(F)C(F)(F)F | C10H13F6NO2
